US05059590
A solution of 200 mg (0.75 mmol) of 5-ethynyl-1-β-D-ribofuranosylimidazole-4-carboxamide in 5 ml of 1N hydrochloric acid solution was heated under reflux at 100° C. for 4 hours. After the reaction, the reaction solution was neutralized with lN sodium hydroxide solution, silica gel powder was added, and the solvent was evaporated. The residue was adsorbed onto a silica gel column (2.7×11 cm), eluted with a 0-16% ethanol-chloroform solvent mixture, and crystallized from an ethanol-hexane solvent mixture to obtain 38 mg of pale yellow crystals of 5-ethynylimidazole-4-carboxamide (yield: 37.6%).

reactant | 5-ethynyl-1-β-D-ribofuranosylimidazole-4-carboxamide | 0.75 mmol, 200 mg | C(#C)C1=C(N=CN1[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO)C(=O)N | C11H13N3O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 1N, 5 ml | Cl | ClH
product | 5-ethynylimidazole-4-carboxamide | yield: 37.6% | C(#C)C1=C(N=CN1)C(=O)N | C6H5N3O
